US05079363
(b) 2-chloro 3-(1,1-dimethyl 2-chloro-ethyl)aminocarbonyl pyridine
76.8 g (0.336 mole) of 2-chloro 3-(1,1-dimethyl-2-hydroxy-ethyl)aminocarbonyl pyridine are placed in a reaction vessel immersed in a cooling bath (ice+water). 244 ml (3.36 moles) of thionyl chloride are then added so as to maintain the temperature below 20° C.

reactant | 2-chloro 3-(1,1-dimethyl-2-hydroxy-ethyl)aminocarbonyl pyridine | 0.336 mole, 76.8 g | ClC1=NC=CC=C1C(=O)NC(CO)(C)C | C10H13ClN2O2
reactant | thionyl chloride | 3.36 moles, 244 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-chloro 3-(1,1-dimethyl 2-chloro-ethyl)aminocarbonyl pyridine | ClC1=NC=CC=C1C(=O)NC(CCl)(C)C | C10H12Cl2N2O
